US09061060B2
Preparation of 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzoic acid (59)
To a solution of 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzaldehyde (0.826 g, 1.1 mmol) in t-BuOH/water (3:1, 17 mL) was added hydrogen peroxide (30%, 5.29 mL, 46.7 mmol) and sodium perchlorate (0.14 g, 1.1 mmol), and the solution was stirred overnight at RT. The volatiles were removed under reduced pressure, and the residue was quenched with water. The aqueous phase was extracted with ethyl acetate, and the organic phases were combined, washed with water and then with brine, and then dried over anhydrous sodium sulfate. After removal of the volatiles, 0.802 g of crude solid product was obtained. MS ESI− (m/z): 841 (M+45)−.

reactant | 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzaldehyde | 1.1 mmol, 0.826 g | ClC=1C(=CC(=C(C=O)C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)CC | C50H49ClO6
reactant | hydrogen peroxide | 46.7 mmol, 5.29 mL | OO | H2O2
reactant | sodium perchlorate | 1.1 mmol, 0.14 g | Cl(=O)(=O)(=O)[O-].[Na+]
solvent | t-BuOH water | 17 mL | CC(C)(C)O.O
product | 5-chloro-4-(4-ethylbenzyl)-2-((2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)tetrahydro-2H-pyran-2-yl)benzoic acid | 0.802 g | ClC=1C(=CC(=C(C(=O)O)C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)CC | C50H49ClO7
